US07754747B2
Step 2: ({6-[2-(1-Benzyl-1H-indol-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetic acid.
A mixture of methyl ({6-[2-(1-benzyl-1H-indol-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetate (271 mg, 0.555 mmol), prepared in the previous step, and 1N NaOH (1.11 mL, 1.11 mmol) in 35 mL of THF plus 20 mL of H2O was stirred at room temperature for 15 h (overnight). The reaction was acidified by the addition of 1.2 mL of 1N HCl and then concentrated under reduced pressure to remove the THF. The white solid that formed was collected by filtration, rinsed with water and dried under reduced pressure to give the title compound (236 mg, 90%) as a white solid, mp 238-242° C. Elemental Analysis for C30H22N2O4+0.32 mole of H2O. Calc'd: C, 75.03; H, 4.75; N, 5.83. Found: C, 74.67; H, 5.34; N, 5.19.

reactant | methyl ({6-[2-(1-benzyl-1H-indol-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetate | 0.555 mmol, 271 mg | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C=1OC(=CN1)C=1C=C2C=CC(=CC2=CC1)OCC(=O)OC | C31H24N2O4
reactant | NaOH | 1.11 mmol, 1N, 1.11 mL | [OH-].[Na+]
reactant | HCl | 1N, 1.2 mL | Cl | ClH
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | H2O | 20 mL | O | H2O
product | ({6-[2-(1-Benzyl-1H-indol-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetic acid | 236 mg, 90% | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C=1OC(=CN1)C=1C=C2C=CC(=CC2=CC1)OCC(=O)O | C30H22N2O4
